US06693137B1
N-Tertbutoxyacetyl-2-(4-(2-chloroethoxy)-phenyl)-propyl-2-propanesulfonamide
To a stirred mixture of N-tertbutoxyacetyl-2-(4-hydroxyphenyl)propyl-2-propanesulfonamide (4.0 g, 11.2 mmol) in acetone (40 mL) was added potassium carbonate (4.64 g, 33.6 mmol) under nitrogen. The resulting mixture was stirred 30 minutes at ambient temperature. Next, 1-bromo-2-chloroethane (1.12 ml, 13.4 mmol) was added and the resulting mixture was heated to reflux while stirring for 48 h. The resulting mixture was cooled and partitioned between ethyl acetate and water. The organic layer was washed with water (2×50 mL) and brine (1×50 mL), dried over magnesium sulfate, and filtered. Evaporation of the filtrate in vacuo followed by chromatography on silica gel eluting with ethyl acetate-hexane gave 1.5 g (32%) of the pure title compound.

reactant | N-tertbutoxyacetyl-2-(4-hydroxyphenyl)propyl-2-propanesulfonamide | 11.2 mmol, 4.0 g | C(C)(C)(C)OCC(=O)NS(=O)(=O)C(CCC(C)C1=CC=C(C=C1)O)C | C18H29NO5S
reactant | potassium carbonate | 33.6 mmol, 4.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 13.4 mmol, 1.12 ml | BrCCCl | C2H4BrCl
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | N-Tertbutoxyacetyl-2-(4-(2-chloroethoxy)-phenyl)-propyl-2-propanesulfonamide | 1.5 g, 32% | C(C)(C)(C)OCC(=O)NS(=O)(=O)C(CCC(C)C1=CC=C(C=C1)OCCCl)C | C20H32ClNO5S
